**********
* Copyright Intusoft 1992-1997
* All Rights Reserved
**********
*SRC=HC04;HC04;CMOS;74HCxx;Inverter, MOS Level
*SYM=HC04
*DWG=C:\MODELS\DIGITAL\CMOS\HC\SUBCKTS\HC04.DWG
.SUBCKT HC04  11 8 2 7 {LIN=3.1N CIN=1.17P LOUT=2.9N COUT=1.03P }
*             In Vcc Gnd Out
X9 3 8 2 5 HCINV
X10 5 8 2 4 HCINV
X11 4 8 2 6 HCINV
LIN 11 3 {LIN}
CIN 3 0 {CIN}
LOUT 6 7 {LOUT}
COUT 6 0 {COUT}
.ENDS
*INCLUDE HC.LIB
**********
*SRC=HC125;HC125;CMOS;74HCxx;Bus Buffer 3-st., MOS Level
*SYM=HC125
*DWG=C:\MODELS\DIGITAL\CMOS\HC\SUBCKTS\HC125.DWG
.SUBCKT HC125  19 16 4 1 3 {LIN=3.1N CIN=1.17P LOUT=2.9N COUT=1.03P LEN=2.9N CEN=1.03P}
*              In En Vcc Gnd Out
X14 10 4 1 2 HCINV
X15 2 4 1 5 HCINV
X16 5 4 1 6 HCINV
X17 15 4 1 8 HCINV
X18 8 4 1 9 HCINV
X19 9 4 1 7 HCINV
X20 12 4 1 10 HCINV
LOUT 11 3 {LOUT}
COUT 11 0 {COUT}
LIN 19 12 {LIN}
CIN 12 0 {CIN}
LEN 16 15 {LEN}
CEN 15 0 {CEN}
X13 6 7 4 1 11 HCOUTEN
.ENDS
*INCLUDE HC.LIB
**********
*SRC=HC126;HC126;CMOS;74HCxx;Bus Buffer 3-st., MOS Level
*SYM=HCDEVEN
*DWG=C:\MODELS\DIGITAL\CMOS\HC\SUBCKTS\HC126.DWG
.SUBCKT HC126  19 16 4 1 3 {LIN=3.1N CIN=1.17P LOUT=2.9N COUT=1.03P LEN=2.9N CEN=1.03P}
*              In En Vcc Gnd Out
X14 10 4 1 2 HCINV
X15 2 4 1 5 HCINV
X16 5 4 1 6 HCINV
X17 13 4 1 8 HCINV
X18 8 4 1 9 HCINV
X19 9 4 1 7 HCINV
X20 12 4 1 10 HCINV
LOUT 11 3 {LOUT}
COUT 11 0 {COUT}
LIN 19 12 {LIN}
CIN 12 0 {CIN}
LEN 16 14 {LEN}
CEN 14 0 {CEN}
X21 14 4 1 13 HCINV
X13 6 7 4 1 11 HCOUTEN
.ENDS
*INCLUDE HC.LIB
**********
.MODEL N1 NMOS (LEVEL=1 VTO=.65 KP=4.75M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N)
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode N-Channel MOSFET  05-21-1993
**********
.MODEL P1 PMOS (LEVEL=1 VTO=-.65 KP=4.75M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N)
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode P-Channel MOSFET  05-21-1993
**********
.MODEL N2 NMOS (LEVEL=1 VTO=.65 KP=62.5M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=4.24P CBS=5.08P CGSO=10.9N CGDO=9.1N CGBO=14.9N)
* CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N; KP=4.75
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode N-Channel MOSFET  05-21-1993
**********
.MODEL P2 PMOS (LEVEL=1 VTO=-.65 KP=62.5M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=4.24P CBS=5.08P CGSO=10.9N CGDO=9.1N CGBO=14.9N)
* CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N; KP=4.75
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode P-Channel MOSFET  05-21-1993
**********
.SUBCKT HCOUTEN 8 6 2 9 7
*              IN EN VCC GND OUT
M2 3 8 2 2 P1
M3 5 1 3 2 P1 
M4 1 6 9 9 N1 
M5 5 8 9 9 N1 
M6 5 1 9 9 N1 
M7 3 6 2 2 P1 
M8 3 6 5 9 N1 
M9 7 5 9 9 N2 
M10 7 3 2 2 P2 
M1 1 6 2 2 P1
*D1 9 7 DP
*D2 7 2 DP
.ENDS
**********
.SUBCKT HCINV 4 2 3 1
M1 1 4 3 3 N1 
M2 1 4 2 2 P1 
.ENDS
**********
*SRC=HC00;HC00;CMOS;74HCxx;NAND Gate, MOS Level
*SYM=CD4011B
.SUBCKT HC00 11  1   88  2   22
* NAND         IN1 IN2 OUT VDD VSS
X1  11  1   9   2  22  NAND
X2  9   99  2   22  INV2
X3  99  88  2   22  INV3
.SUBCKT NAND  1   11   2   3  22
* NAND INPUT IN1  IN2   OUT VDD  VSS
M1  299 1  22  22 NMOS L=3U  W=80U AD=240P PD=160U
M2  3   1  2   3  PMOS L=3U  W=80U AD=240P PD=160U
M11 2   11 299 22 NMOS L=3U  W=80U AD=240P PD=160U  AS=240P PS=160U
M12 3   11 2   3  PMOS L=3U  W=80U AD=240P PD=160U
.ENDS
.SUBCKT INV2 1   2   3  22
*            IN  OUT VDD  VSS
M1 2 1 22 22 NMOS L=3U  W=150U AD=750P PD=300U
M2 3 1 2  3  PMOS L=3U  W=300U AD=1800P PD=600U
.ENDS
.SUBCKT INV3 1   2   3  22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=500U AD=3000P PD=1000U
M2 3 1 2  3  PMOS L=3U  W=1000U AD=6000P PD=2000U
.ENDS
.ENDS
.MODEL PMOS PMOS LEVEL=2 UO=199.5 VTO=-0.8 NFS=828.9E9 TPG=-1
+ TOX=450E-10 NSUB=4.371E15 UCRIT=116.4E3 UEXP=185.5E-3 VMAX=235.9E3
+ XJ=305.0E-9 LD=103.3E-9 DELTA=1.350
+ PB=0.7072 IS=100.0E-18 JS=100.0E-6 NEFF=663.9E-3
+ CJ=231.6E-6 MJ=329.5E-3 CJSW=58.72E-12 MJSW=186.9E-3 CGSO=0.839E-10
+ CGDO=0.839E-10 CGBO=1.241E-10
.MODEL NMOS NMOS LEVEL=2 UO=605.2 VTO=0.8 NFS=2.465E11 TPG=1
+ TOX=450E-10 NSUB=2.788E16 UCRIT=164.4E3 UEXP=385.5E-3 VMAX=61.22E3
+ XJ=475.2E-9 LD=135.6E-9 DELTA=1.621
+ PB=0.8092 IS=100.0E-18 JS=100.0E-6 NEFF=678.7E-3
+ CJ=335.2E-6 MJ=284.1E-3 CJSW=2.403E-9 MJSW=715.5E-3 CGSO=1.102E-10
+ CGDO=1.102E-10 CGBO=1.387E-10
**********
*SRC=HC02;HC02;CMOS;74HCxx;NOR Gate, MOS Level
*SYM=CD4001B
.SUBCKT HC02 11  1   88  2   22
* NOR          IN1 IN2 OUT VDD VSS
X1  11  1   9   2   22   NOR
X2  9   99  2  22   INV2
X3  99  88  2  22   INV3
.SUBCKT NOR 11  1   2  3 22
* NOR INPUT IN1 IN2 OUT VDD VSS
M1  2  1  22   22 NMOS L=3U  W=40U AD=120P PD=160U
M2  3  1  299   3 PMOS L=3U  W=160U AD=480P PD=320U
M11 2  11 22   22 NMOS L=3U  W=40U AD=120P PD=160U
M12 299 11 2   3 PMOS L=3U  W=160U AD=480P AS=480P PD=320U PS=320U
.ENDS
.SUBCKT INV2 1   2   3   22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=150U AD=750P PD=300U
M2 3 1 2  3  PMOS L=3U  W=300U AD=1800P PD=600U
.ENDS
.SUBCKT INV3 1   2   3 22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=500U AD=3000P PD=1000U
M2 3 1 2  3  PMOS L=3U  W=1000U AD=6000P PD=2000U
.ENDS
.ENDS
.MODEL PMOS PMOS LEVEL=2 UO=199.5 VTO=-0.8 NFS=828.9E9 TPG=-1
+ TOX=450E-10 NSUB=4.371E15 UCRIT=116.4E3 UEXP=185.5E-3 VMAX=235.9E3
+ XJ=305.0E-9 LD=103.3E-9 DELTA=1.350
+ PB=0.7072 IS=100.0E-18 JS=100.0E-6 NEFF=663.9E-3
+ CJ=231.6E-6 MJ=329.5E-3 CJSW=58.72E-12 MJSW=186.9E-3 CGSO=0.839E-10
+ CGDO=0.839E-10 CGBO=1.241E-10
.MODEL NMOS NMOS LEVEL=2 UO=605.2 VTO=0.8 NFS=2.465E11 TPG=1
+ TOX=450E-10 NSUB=2.788E16 UCRIT=164.4E3 UEXP=385.5E-3 VMAX=61.22E3
+ XJ=475.2E-9 LD=135.6E-9 DELTA=1.621
+ PB=0.8092 IS=100.0E-18 JS=100.0E-6 NEFF=678.7E-3
+ CJ=335.2E-6 MJ=284.1E-3 CJSW=2.403E-9 MJSW=715.5E-3 CGSO=1.102E-10
+ CGDO=1.102E-10 CGBO=1.387E-10
**********
*SRC=HCT00;HCT00;CMOS;74HCTxx;NAND Gate, MOS Level
*SYM=CD4011B
.SUBCKT HCT00 11  1   88  2   22
* NAND          IN1 IN2 OUT VDD VSS
X1  11  1   9   2   22  NAND
X2  9       99  2   22  INV2
X3  99      88  2   22  INV3
.SUBCKT NAND  1   11   2   3   22
* NAND INPUT  IN1 IN2  OUT VDD VSS
M1  299 1  22  22 NMOS L=3U  W=400U AD=1200P PD=800U
M2  3   1  2   3  PMOS L=3U  W=80U  AD=240P  PD=160U
M11 2   11 299 22 NMOS L=3U  W=400U AD=1200P AS=1200P PD=800U PS=800U
M12 3   11 2   3  PMOS L=3U  W=80U  AD=240P  PD=160U
.ENDS
.SUBCKT INV2 1   2   3  22
*            IN  OUT VDD  VSS
M1 2 1 22 22 NMOS L=3U  W=150U AD=750P PD=300U
M2 3 1 2  3  PMOS L=3U  W=300U AD=1800P PD=600U
.ENDS
.SUBCKT INV3 1   2   3  22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=500U AD=3000P PD=1000U
M2 3 1 2  3  PMOS L=3U  W=1000U AD=6000P PD=2000U
.ENDS
.ENDS
.MODEL PMOS PMOS LEVEL=2 UO=199.5 VTO=-0.8 NFS=828.9E9 TPG=-1
+ TOX=450E-10 NSUB=4.371E15 UCRIT=116.4E3 UEXP=185.5E-3 VMAX=235.9E3
+ XJ=305.0E-9 LD=103.3E-9 DELTA=1.350
+ PB=0.7072 IS=100.0E-18 JS=100.0E-6 NEFF=663.9E-3
+ CJ=231.6E-6 MJ=329.5E-3 CJSW=58.72E-12 MJSW=186.9E-3 CGSO=0.839E-10
+ CGDO=0.839E-10 CGBO=1.241E-10
.MODEL NMOS NMOS LEVEL=2 UO=605.2 VTO=0.8 NFS=2.465E11 TPG=1
+ TOX=450E-10 NSUB=2.788E16 UCRIT=164.4E3 UEXP=385.5E-3 VMAX=61.22E3
+ XJ=475.2E-9 LD=135.6E-9 DELTA=1.621
+ PB=0.8092 IS=100.0E-18 JS=100.0E-6 NEFF=678.7E-3
+ CJ=335.2E-6 MJ=284.1E-3 CJSW=2.403E-9 MJSW=715.5E-3 CGSO=1.102E-10
+ CGDO=1.102E-10 CGBO=1.387E-10
**********
*SRC=HCT02;HCT02;CMOS;74HCTxx;NOR Gate, MOS Level
*SYM=CD4001B
.SUBCKT HCT02 11  1   88  2   22
* NOR           IN1 IN2 OUT VDD VSS
X1  11  1  9   2 22 NOR
X2  9   99  2  22 INV2
X3  99  88  2  22 INV3
.SUBCKT NOR 11  1   2  3 22
* NOR INPUT IN1  IN2   OUT VDD VSS
M1  2  1  22  22 NMOS L=3U  W=240U AD=720P PD=480U
M2  3  1  299  3 PMOS L=3U  W=80U AD=240P PD=160U
M11 2  11 22  22 NMOS L=3U  W=240U AD=720P PD=480U
M12 299 11 2  3  PMOS L=3U  W=80U AD=240P PD=160U AS=240P PS=160U
.ENDS 
.SUBCKT INV2 1   2   3 22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=150U AD=750P PD=300U
M2 3 1 2  3  PMOS L=3U  W=300U AD=1800P PD=600U
.ENDS
.SUBCKT INV3 1   2   3 22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=500U AD=3000P PD=1000U
M2 3 1 2  3  PMOS L=3U  W=1000U AD=6000P PD=2000U
.ENDS
.ENDS
.MODEL PMOS PMOS LEVEL=2 UO=199.5 VTO=-0.8 NFS=828.9E9 TPG=-1
+ TOX=450E-10 NSUB=4.371E15 UCRIT=116.4E3 UEXP=185.5E-3 VMAX=235.9E3
+ XJ=305.0E-9 LD=103.3E-9 DELTA=1.350
+ PB=0.7072 IS=100.0E-18 JS=100.0E-6 NEFF=663.9E-3
+ CJ=231.6E-6 MJ=329.5E-3 CJSW=58.72E-12 MJSW=186.9E-3 CGSO=0.839E-10
+ CGDO=0.839E-10 CGBO=1.241E-10
.MODEL NMOS NMOS LEVEL=2 UO=605.2 VTO=0.8 NFS=2.465E11 TPG=1
+ TOX=450E-10 NSUB=2.788E16 UCRIT=164.4E3 UEXP=385.5E-3 VMAX=61.22E3
+ XJ=475.2E-9 LD=135.6E-9 DELTA=1.621
+ PB=0.8092 IS=100.0E-18 JS=100.0E-6 NEFF=678.7E-3
+ CJ=335.2E-6 MJ=284.1E-3 CJSW=2.403E-9 MJSW=715.5E-3 CGSO=1.102E-10
+ CGDO=1.102E-10 CGBO=1.387E-10
**********
*SRC=HCT04;HCT04;CMOS;74HCTxx;Inverter, MOS Level
*SYM=CD4049UB
.SUBCKT HCT04 11 88  2   22
*               IN OUT VDD VSS
X1  11  9   2  22 INV1
X2  9   99  2  22 INV2
X3  99  88  2  22 INV3
.SUBCKT INV1 1   2   3   22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=240U AD=720P
M2 3 1 2 3 PMOS L=3U  W=80U AD=240P
.ENDS
.SUBCKT INV2 1   2   3   22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=150U AD=750P PD=300U
M2 3 1 2 3 PMOS L=3U  W=300U AD=1800P PD=600U
.ENDS
.SUBCKT INV3 1   2   3   22
*            IN  OUT VDD VSS
M1 2 1 22 22 NMOS L=3U  W=500U AD=3000P PD=1000U
M2 3 1 2 3 PMOS L=3U  W=1000U AD=6000P PD=2000U
.ENDS
.ENDS
.MODEL PMOS PMOS LEVEL=2 UO=199.5 VTO=-0.8 NFS=828.9E9 TPG=-1
+ TOX=450E-10 NSUB=4.371E15 UCRIT=116.4E3 UEXP=185.5E-3 VMAX=235.9E3
+ XJ=305.0E-9 LD=103.3E-9 DELTA=1.350
+ PB=0.7072 IS=100.0E-18 JS=100.0E-6 NEFF=663.9E-3
+ CJ=231.6E-6 MJ=329.5E-3 CJSW=58.72E-12 MJSW=186.9E-3 CGSO=0.839E-10
+ CGDO=0.839E-10 CGBO=1.241E-10
.MODEL NMOS NMOS LEVEL=2 UO=605.2 VTO=0.8 NFS=2.465E11 TPG=1
+ TOX=450E-10 NSUB=2.788E16 UCRIT=164.4E3 UEXP=385.5E-3 VMAX=61.22E3
+ XJ=475.2E-9 LD=135.6E-9 DELTA=1.621
+ PB=0.8092 IS=100.0E-18 JS=100.0E-6 NEFF=678.7E-3
+ CJ=335.2E-6 MJ=284.1E-3 CJSW=2.403E-9 MJSW=715.5E-3 CGSO=1.102E-10
+ CGDO=1.102E-10 CGBO=1.387E-10
**********
